US05821246
Di-isobutylaluminium hydride (1.5M in toluene, 16.34 ml) was added to a stirred solution of 2-chloro-N-methoxy-N-methyl-4-nitrobenzamide (5 g) in toluene (100 ml) which had been cooled to -78° C. The mixture was stirred for 40 minutes. Methanol (10 ml) was added and the solvent was evaporated. The residue was partitioned between ethyl acetate and 2M aqueous hydrochloric acid. The organic solution was washed with water, dried (MgSO4) and evaporated to give 2-chloro-4-nitrobenzaldehyde (2 g).

reactant | Di-isobutylaluminium hydride | 1.5M, 16.34 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-chloro-N-methoxy-N-methyl-4-nitrobenzamide | 5 g | ClC1=C(C(=O)N(C)OC)C=CC(=C1)[N+](=O)[O-] | C9H9ClN2O4
reactant | Methanol | 10 ml | CO | CH4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-nitrobenzaldehyde | 2 g | ClC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4ClNO3
